US08039678B2
U.S. Pat. No. 6,271,422 describes the synthesis of sevoflurane by fluoromethylation of alcohols via decarboxylative halogenation. In this way, hexafluoroisopropanol is submitted to reaction with ethyl alpha-bromoacetate providing alpha-(hexafluoroisopropoxy)acetic acid in a yield of 66%. This intermediate is subjected to reaction with highly toxic lead tetra-acetate, using carcinogenic benzene as the solvent. In the reaction sequence, the homogeneous benzene/sevochlorane solution, which is inseparable by distillation, is reacted with potassium fluoride providing at the end of the process sevoflurane with a low yield of 28%.

reactant | sevoflurane | C(OC(C(F)(F)F)C(F)(F)F)F | C4H3F7O
reactant | hexafluoroisopropanol | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | ethyl alpha-bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | alpha-(hexafluoroisopropoxy)acetic acid | yield of 66% | FC(C(C(F)(F)F)OCC(=O)O)(F)F | C5H4F6O3
